US08119627B2
To an ice cooled solution of [2-(2,4-dichlorophenoxy)phenyl]piperidin-4-ylamine (AMR01040, 132 mg, 0.39 mmol) in dry DCM (5 mL) were added triethylamine (0.137 mL, 0.98 mmol) and acetyl chloride (0.031 mL, 0.43 mmol). The reaction mixture was stirred at room temperature until completion by TLC (1 h), and quenched with saturated NaHCO3. The resulting solution was extracted with DCM (3×20 mL), and the combined organic layers were washed with water, 1M HCl (3×20 mL) and brine, dried (MgSO4), filtered and evaporated. Flash chromatography on silica gel of the crude product using hexane to EtOAc gradient as eluent gave 1-{4-[2-(2,4-dichlorophenoxy)phenylamino]piperidin-1-yl}ethanone (95.3 mg, 64%) as a white solid after, mp 145-146° C. Rf: 0.22 (EtOAc) LC/MS (APCI) tr=1.44 min, m/z 381.29 (63), 379.34 (M++H, 100) HPLC tr=3.10 min (99.31%) 1H NMR (270 MHz, CDCl3) δ 1.36 (2H, m, CH2), 2.06 (2H, m, CH2), 2.08 (3H, s, CH3), 2.89 (1H, m), 3.20 (1H, m), 3.53 (1H, m), 3.74 (1H, m), 4.05 (1H, m), 4.37 (1H, m), 6.63 (1H, m, ArH), 6.74 (1H, dd, J=7.9, 1.5 Hz, ArH), 6.75 (1H, dd, J=8.2, 1.5 Hz, ArH), 6.80 (1H, d, J=8.9 Hz, ArH), 7.03 (1H, m, ArH), 7.12 (1H, dd, J=8.9, 2.5 Hz, ArH) and 7.43 (1H, d, J=2.5 Hz, ArH). Anal. Calcd. for C19H20Cl2N2O2: C, 60.17; H, 5.32; N, 7.39. Found: C, 59.90; H, 5.47; N, 7.13%.

reactant | [2-(2,4-dichlorophenoxy)phenyl]piperidin-4-ylamine | 0.39 mmol, 132 mg | ClC1=C(OC2=C(C=CC=C2)NC2CCNCC2)C=CC(=C1)Cl | C17H18Cl2N2O
reactant | triethylamine | 0.98 mmol, 0.137 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.43 mmol, 0.031 mL | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-{4-[2-(2,4-dichlorophenoxy)phenylamino]piperidin-1-yl}ethanone | 95.3 mg, 64% | ClC1=C(OC2=C(C=CC=C2)NC2CCN(CC2)C(C)=O)C=CC(=C1)Cl | C19H20Cl2N2O2
